US06251905B1
4,5-Dihydro-4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one
In 50 ml of acetonitrile was suspended 6.73 g (20.0 mM) of 3-carbethoxy-5-chloromethylimidazo[1,2-a]pyridine sulfate followed by addition of 5.97 ml (40.0 mM) of DBU at room temperature with stirring. To the resulting solution was added 4.57 g (20.0 mM) of 2-(1-tert-butoxycarbonylpiperidin-4-yl)-1-ethylamine as well as 5.54 ml (40.0 mM) of triethylamine and 3.00 g (20.0 mM) of sodium iodide and the mixture was stirred at room temperature for 16 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was extracted with 100 ml of 2-butanone. The organic layer was washed with 100 ml of saturated aqueous NaCl solution and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-ethanol=5:1) to provide 2.88 g (yield 37.5%) of the title compound as yellow oil.

reactant | 3-carbethoxy-5-chloromethylimidazo[1,2-a]pyridine sulfate | 20.0 mM, 6.73 g | S(=O)(=O)(O)O.C(=O)(OCC)C1=CN=C2N1C(=CC=C2)CCl
reactant | DBU | 40.0 mM, 5.97 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-(1-tert-butoxycarbonylpiperidin-4-yl)-1-ethylamine | 20.0 mM, 4.57 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
reactant | sodium iodide | 20.0 mM, 3.00 g | [I-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | triethylamine | 40.0 mM, 5.54 ml | C(C)N(CC)CC | C6H15N
product | 4,5-Dihydro-4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 2.88 g, yield 37.5% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1C(C2=CN=C3C=CC=C(C1)N32)=O | C21H28N4O3
